US07960394B2
2-{4-[(1-Cyclopentylpiperidin-4-yl)oxy]phenyl}-8-fluoro-3-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-3-fluorobenzoic acid, methylamine and 4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde.

reactant | 2-amino-3-fluorobenzoic acid | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde | C1(CCCC1)N1CCC(CC1)OC1=CC(=C(C=O)C=C1)OC | C18H25NO3
product | 2-{4-[(1-Cyclopentylpiperidin-4-yl)oxy]phenyl}-8-fluoro-3-methylquinazolin-4(3H)-one | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1C)=O)F | C25H28FN3O2
